US07960567B2
2-(4-Methoxy-2,3-dimethylphenyl)-1-(pyrrolidin-1-yl)ethanone (12.2).
Under an N2 atmosphere, 1-(2,2-dibromovinyl)-4-methoxy-2,3-dimethylbenzene was dissolved in a mixture of DMF (43 mL) and water (14 mL). Pyrrolidine (5.67 mL, 68 mmol) was added and the reaction was heated to 80° C. for 20 h. The reaction was diluted with Et2O and water. The layers were separated and the organic layer was washed with 0.25M HCl (aq) and brine. The organic extract was dried (Na2SO4), filtered, and concentrated in vacuo. Flash column chromatography of the residue, eluting with 0% to 100% ethyl acetate in hexanes, afforded the title compound. LC-MS ESI (pos.) m/z: 248.2 (M+H).

reactant | 1-(2,2-dibromovinyl)-4-methoxy-2,3-dimethylbenzene | BrC(=CC1=C(C(=C(C=C1)OC)C)C)Br | C11H12Br2O
reactant | Pyrrolidine | 68 mmol, 5.67 mL | N1CCCC1 | C4H9N
reactant | DMF | 43 mL | CN(C)C=O | C3H7NO
solvent | water | 14 mL | O | H2O
solvent | Et2O | CCOCC | C4H10O
product | 2-(4-Methoxy-2,3-dimethylphenyl)-1-(pyrrolidin-1-yl)ethanone | COC1=C(C(=C(C=C1)CC(=O)N1CCCC1)C)C | C15H21NO2
